US07101871B2
Step A: (2S,5R)-2,5-Dihydro-3,6-dimethoxy-2-isopropyl-5-(2′,4′,5′trifluorobenzyl) -pyrazine
The title compound (3.81 g) was prepared from 3.42 g (18.5 mmol) of (2S)-2,5-dihydro-3,6-dimethoxy-2-isopropylpyrazine and 5 g (22.3 mmol) of 2,4,5-trifluorobenzyl bromide using the procedure described for Intermediate 2, Step A.

reactant | (2S)-2,5-dihydro-3,6-dimethoxy-2-isopropylpyrazine | 18.5 mmol, 3.42 g | COC=1[C@@H](N=C(CN1)OC)C(C)C | C9H16N2O2
reactant | 2,4,5-trifluorobenzyl bromide | 22.3 mmol, 5 g | FC1=C(CBr)C=C(C(=C1)F)F | C7H4BrF3
product | (2S,5R)-2,5-Dihydro-3,6-dimethoxy-2-isopropyl-5-(2′,4′,5′trifluorobenzyl) -pyrazine | 3.81 g | COC=1[C@@H](N=C([C@H](N1)CC1=C(C=C(C(=C1)F)F)F)OC)C(C)C | C16H19F3N2O2
